data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5146,5844,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24](=[O:25])[O:26][CH3:27])[n+:28]1[CH3:29]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]1([C:24](=[O:25])[O:26][CH3:27])[C:21](=[O:22])[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[N:28]1[CH3:29],water,298.15,29.58079252893097,16.99092769589247
2005,2227,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:18]=[C:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,10.897904457887387,-45.3185365125041
4272,4886,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([C:20]#[N:21])[C:22]#[N:23],water,298.15,21.94445306970297,-15.615901305887466
4094,4687,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17])[C:18](=[O:19])[NH:20][CH3:21]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:18](=[O:19])[NH:20][CH3:21],water,298.15,27.55353241764297,-19.80881492051932
578,634,[CH3:10][C:11](=[O+:12][N-:13][C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[Cl:1][CH:2]1[C:3]#[C:4][CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1>>[Cl:1][CH:2]1[C:3]2=[C:4]([CH2:5][CH2:6][CH2:7][CH2:8][CH2:9]1)[N:13]([C:14]#[N:15])[O:12][C:11]2([CH3:10])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,9.69724180582848,-47.95182751750599
1843,2043,[CH2:18]=[NH+:19][C-:20]([C:21](=[O:22])[NH:23][CH3:24])[C:25](=[O:26])[NH:27][CH3:28].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6]([CH3:7])=[O:8])=[C:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[NH:16][CH3:17])[C:20]([C:21](=[O:22])[NH:23][CH3:24])([C:25](=[O:26])[NH:27][CH3:28])[NH:19][CH2:18]1,water,298.15,22.73813860733291,-12.261354333037572
1500,1655,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([O+:17]=[C:18]([C:19]#[N:20])[C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:24](=[O:25])[NH:26][CH3:27])[O:17][C:18]2([C:19]#[N:20])[C:21]([CH3:22])=[O:23],water,298.15,11.007810255597663,-75.08293410634502
4386,5007,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:19]1([C:20]([CH3:21])=[O:22])[C:17](=[O:18])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[O:23]1,water,298.15,6.552428988717505,-13.920328058249629
787,852,[CH3:13][C:14](=[O:15])[C-:16]([C:17]#[N:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[CH3:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:21]([CH3:22])([CH3:23])[N:19]([CH3:20])[C:16]3([C:14]([CH3:13])=[O:15])[C:17]#[N:18],water,298.15,29.776796498890977,-13.791817098453611
5019,5707,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,42.544986201300894,8.583604623545783
526,573,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][C-:16]([C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2]#[C:3][c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1>>[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:16]([C:17]#[N:18])([C:19](=[O:20])[NH:21][CH3:22])[NH:15][CH:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,22.495514451573893,-29.29163034251855
